US04728650
In a nitrogen atmosphere, 11.0 g (0.0495 mol) of 6-chloro-3,4-dihydro-2-(2-hydroxyethyl)-2-methyl-2H-benzopyran was dissolved in 50 ml of pyridine, the solution was cooled to 0° C. and, with vigorous stirring, 11.3 g of p-toluenesulfonyl chloride was added gradually thereto. After stirring at 0° C. for 1 hour, the reaction mixture was poured into 300 ml of dilute hydrochloric acid and extracted with diethyl ether. The ether layer was washed with water, dried over anhydrous magnesium sulfate and filtered. Low-boiling substances were distilled off from the filtrate under reduced pressure, and the residue was purified by silica gel column chromatography to give 15.3 g of 6-chloro-3,4-dihydro-2-methyl-2-[2-(p-toluenesulfonyloxy)ethyl]-2H-benzopyran.

reactant | 6-chloro-3,4-dihydro-2-(2-hydroxyethyl)-2-methyl-2H-benzopyran | 0.0495 mol, 11.0 g | ClC=1C=CC2=C(CCC(O2)(C)CCO)C1 | C12H15ClO2
reactant | p-toluenesulfonyl chloride | 11.3 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | hydrochloric acid | 300 ml | Cl | ClH
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 6-chloro-3,4-dihydro-2-methyl-2-[2-(p-toluenesulfonyloxy)ethyl]-2H-benzopyran | 15.3 g | ClC=1C=CC2=C(CCC(O2)(CCOS(=O)(=O)C2=CC=C(C=C2)C)C)C1 | C19H21ClO4S
